US05668143
5,7-Dichloro-4-[benzenesulfonylimino]-1,4-dihydroquinoline-2-carboxylic acid-N-methylamide
Combine 5,7-dichloro-4-[benzenesulfonylimino]-1,4-dihydroquinoline-2-carboxylic acid, methyl ester (1.0 g, 2.4 mmol) and 40% methylamine in water (25 mL) and dioxane (50 mL). Stopper and stir for 18 hours. Evaporate in vacuo to give a yellow oil. Dissolve the oil in water (15 mL) and add 1M hydrochloric acid solution (15 mL). Stir for 15 minutes and then filter to obtain a solid. Rinse the solid with 1M hydrochloric acid solution and water. Recrystallize from acetonitrile/water to give the title compound as a solid: mp; 196°-197° C. Elem. Anal. calculated for C17H13Cl2N3O3S.H2O: C, 47.68; H, 3.53; N, 9.81. Found: C, 47.55; H, 3.42; N, 9.78.

reactant | 5,7-dichloro-4-[benzenesulfonylimino]-1,4-dihydroquinoline-2-carboxylic acid, methyl ester | 2.4 mmol, 1.0 g | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OC)=NS(=O)(=O)C1=CC=CC=C1 | C17H12Cl2N2O4S
reactant | methylamine | CN | CH5N
reactant | hydrochloric acid | 1M, 15 mL | Cl | ClH
solvent | water | 25 mL | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
product | 5,7-Dichloro-4-[benzenesulfonylimino]-1,4-dihydroquinoline-2-carboxylic acid-N-methylamide | CNC(=O)C=1NC2=CC(=CC(=C2C(C1)=NS(=O)(=O)C1=CC=CC=C1)Cl)Cl | C17H13Cl2N3O3S
